US09332754B2
Production of 6-thiocyanatohexyl-[2,4-dichloro-5-(2,2,2-trifluoroethylthio)phenyl]ether (present compound No. A-0678)
In 30 ml of ethanol were added 1.51 g (3.43 mmol) of 6-bromohexyl-[2,4-dichloro-5-(2,2,2-trifluoroethylthio)phenyl]ether and 1.67 g (17.2 mmol) of potassium thiocyanate. The mixture was refluxed for 3 hours under heating. The mixture was allowed to cool to room temperature, and the solvent was distilled off under reduced pressure. Then extraction was conducted by adding ethyl acetate and water. The organic phase obtained was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent: a mixed solvent of n-hexane:ethyl acetate=10:1), to obtain 1.04 g (yield: 73%) of an intended product.

reactant | 6-bromohexyl-[2,4-dichloro-5-(2,2,2-trifluoroethylthio)phenyl]ether | 3.43 mmol, 1.51 g | BrCCCCCCOC1=C(C=C(C(=C1)SCC(F)(F)F)Cl)Cl | C14H16BrCl2F3OS
reactant | potassium thiocyanate | 17.2 mmol, 1.67 g | [S-]C#N.[K+]
reactant | n-hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 6-thiocyanatohexyl-[2,4-dichloro-5-(2,2,2-trifluoroethylthio)phenyl]ether | 1.04 g, yield: 73% | S(C#N)CCCCCCOC1=C(C=C(C(=C1)SCC(F)(F)F)Cl)Cl | C15H16Cl2F3NOS2
